US04725615
3-Hydroxy-2-cyclohexen-1-one (4-fluorophenyl)hydrazone
A suspension of 4-fluorophenylhydrazine hydrochloride (50 g) in water (500 ml) was treated with sodium hydroxide (12.3 g) in water (50 ml) and the resultant solution added to solution of cyclohexane-1,3-dione (97%, 35.6 g) in water (300 ml) over 2 h under nitrogen with stirring. After a further 30 min, the precipitate was filtered off, washed with water (50 ml), air dried for 1 h, and dried in vacuo over phosphorus pentoxide at 75° to give the title compound as a powder (65.3 g) m.p. 175°-176°.

reactant | 4-fluorophenylhydrazine hydrochloride | 50 g | Cl.FC1=CC=C(C=C1)NN
reactant | sodium hydroxide | 12.3 g | [OH-].[Na+]
reactant | cyclohexane-1,3-dione | 35.6 g | C1(CC(CCC1)=O)=O | C6H8O2
solvent | water | 500 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 3-Hydroxy-2-cyclohexen-1-one (4-fluorophenyl)hydrazone | 65.3 g | FC1=CC=C(C=C1)NN=C1C=C(CCC1)O | C12H13FN2O
